US09290465B2
Acetic acid 5-(4-methanesulfonyl-benzyloxy)-pyridin-2-ylmethyl ester (10.4 g, 31 mmol) was suspended in a water (20 mL) and ethanol (80 mL). To this was added NaOH (2.2 g, 55 mmol) and the reaction was heated to reflux for 2 h. The reaction mixture was cooled to rt and stirred for 24 h and then concentrated under reduced pressure. The resulting residue was partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4, filtered and volatiles were removed under reduced pressure to yield [5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-methanol (4.04 g, 44%) as a light yellow solid.

reactant | Acetic acid 5-(4-methanesulfonyl-benzyloxy)-pyridin-2-ylmethyl ester | 31 mmol, 10.4 g | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)COC(C)=O)C=C1 | C16H17NO5S
reactant | water | 20 mL | O | H2O
reactant | NaOH | 55 mmol, 2.2 g | [OH-].[Na+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | [5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-methanol | 4.04 g, 44% | CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)CO)C=C1 | C14H15NO4S
